US07691882B2
3-(3-(4-(4-Chloro-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
Tetrahydrofuran (3 mL) and 5 N aqueous sodium hydroxide solution (22.4 μL, 0.11 mmol) were added to 4-(5-(2-amino-pyridine-3-yl)-isoxazole-3-ylmethyl)-phenol (30 mg, 0.11 mmol) described in Manufacturing Example 5-1-1, which was dissolved by irradiating ultrasonic wave for 1 minute. Next, the reaction solution was concentrated under a reduced pressure to obtain a white solid. An N,N-dimethylformamide (1 mL) solution of 4-chloro-2-chloromethyl-pyridine (36.3 mg, 0.22 mmol) described in Manufacturing Example 51-1-2 was added to a suspension of this solid and N,N-dimethylformamide (1 mL), which was stirred for 1 hour at 60° C. This mixture was cooled to room temperature, and partitioned into water and ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure and the residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:1) to obtain the title compound (36.6 mg, 83%).

reactant | Tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 0.11 mmol, 5 N, 22.4 μL | [OH-].[Na+]
reactant | 4-(5-(2-amino-pyridine-3-yl)-isoxazole-3-ylmethyl)-phenol | 0.11 mmol, 30 mg | NC1=NC=CC=C1C1=CC(=NO1)CC1=CC=C(C=C1)O | C15H13N3O2
reactant | 4-chloro-2-chloromethyl-pyridine | 0.22 mmol, 36.3 mg | ClC1=CC(=NC=C1)CCl | C6H5Cl2N
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 3-(3-(4-(4-Chloro-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 36.6 mg, 83% | ClC1=CC(=NC=C1)COC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C21H17ClN4O2
